US05663331
B. Preparation of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline
1-Ethyl-6,7-difluoro-1,2,3,4-tetrahydro-5-oxoquinoline(10 g) and p-chloranil (23 g) were reacted in the same method as described in Preparation 1-B to give the white above-indicated compound(6.7 g).

reactant | 1-Ethyl-6,7-difluoro-1,2,3,4-tetrahydro-5-oxoquinoline | 10 g | C(C)N1CCCC2C(C(=C(C=C12)F)F)=O | C11H13F2NO
reactant | p-chloranil | 23 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
product | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline | 6.7 g, Yield: 68% | C(C)N1C=CC(C2=CC(=C(C=C12)F)F)=O | C11H9F2NO
